US07781436B2
2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester gave, after treatment with TFA and neutralisation, the title compound.

reactant | {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C24H23ClN2O4
reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-{6-Chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-N-(2-methylamino-ethyl)-acetamide | ClC1=CC=C2C(=CN(C2=C1)CC(=O)NCCNC)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C27H31ClN4O3
